US04241069
A mixture of 18.1 g (67 mmol) of 4'-nitro flavanone, prepared as described in J. Chem. Soc. Japan, Pure Chem. Sect. 74, 827 (1953), 4.04 g (134 mmol) of paraformaldehyde, 10.97 g (134 mmol) of dimethylamine hydrochloride, 1 ml of concentrated HCl, and 200 ml of 2-propanol was refluxed for three hours. When cool, the solvent was removed under reduced pressure and the residue partitioned between CHCl3 and 5 percent aqueous HCl. The layers were separated and the organic layer was washed with 3-100 ml portions of 5 percent HCl. The combined aqueous extracts were neutralized with solid Na2CO3 and extracted with ether. The ether was dried over anhydrous Na2SO4, filtered, and concentrated. The oily residue was dissolved in ethyl acetate and treated with 1 ml of ethanol and 1.5 ml of acetyl chloride. The solvent was then evaporated to give a glassy residue. This was taken up in 500 ml of hot ethyl acetate containing 20 ml of acetone and cooled. A precipitate formed that was recrystallized from methanol to give 810 mg of 4'-nitro-3-methylene flavanone as a solid, m.p. 135°-136° C.

reactant | 4'-nitro flavanone | 67 mmol, 18.1 g | [N+](=O)([O-])C1=CC=C(C2OC3=CC=CC=C3C(C2)=O)C=C1 | C15H11NO4
reactant | paraformaldehyde | 134 mmol, 4.04 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 134 mmol, 10.97 g | Cl.CNC
reactant | HCl | 1 ml | Cl | ClH
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | 4'-nitro-3-methylene flavanone | 810 mg | [N+](=O)([O-])C1=CC=C(C2OC3=CC=CC=C3C(C2=C)=O)C=C1 | C16H11NO4
